US04189433
43 g of 4-chloro-7-nitro-1,2-benzisothiazole and 16 g of sodium hydroxide powder in 400 ml of ethanol are stirred for 1 hour at 70° C. When the mixture has cooled, 500 ml of water are added, the batch is neutralized with dilute sulfuric acid whilst cooling with ice, and the product which has precipitated is filtered off. The filter cake is then washed with a little ice-cold methanol, and dried. 34 g (86% of theory) of 7-nitro-4-hydroxy-1,2-benzisothiazole are obtained, melting at 284° C. (with decomposition) after one recrystallization from n-butanol.

reactant | 4-chloro-7-nitro-1,2-benzisothiazole | 43 g | ClC1=CC=C(C2=C1C=NS2)[N+](=O)[O-] | C7H3ClN2O2S
reactant | sodium hydroxide | 16 g | [OH-].[Na+]
reactant | water | 500 ml | O | H2O
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | ethanol | 400 ml | C(C)O | C2H6O
product | 7-nitro-4-hydroxy-1,2-benzisothiazole | 34 g, 86% | [N+](=O)([O-])C1=CC=C(C=2C=NSC21)O | C7H4N2O3S
